US07232827B2
(+/−)7,7-Dimethyl-2-(pyridin-4-yl)-9-[(2-pyrrolidin-1-yl-6,7-dihydro-5H-[1]pyrindin-6-ylmethyl)]-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
To a solution of 0.2 g (0.474 mmol) of (+/−)9-(2-chloro-6,7-dihydro-5H-[1]pyrindin-6-ylmethyl)-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one in 20 ml of anhydrous pyrrolidine was treated with 0.216 g (0.664 mmol) of cesium carbonate, 8.85 mg (0.142 mmol) of (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl and 6.5 mg (0.07 mmol) of tris(dibenzylideneacetone)dipalladium(0). After being stirred under reflux for 24 h, water was added, the mixture was extracted with dichloromethane. The organic phase was dried and evaporated to give crude product, which was purified by silica gel chromatography, eluting with dichloromethane/methanol/ammonia in the proportions 99/1/0.1 to give 0.184 g of pure product obtained in the form of free base. Mp: 170–171° C.

reactant | (+/−)9-(2-chloro-6,7-dihydro-5H-[1]pyrindin-6-ylmethyl)-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.474 mmol, 0.2 g | ClC1=NC=2CC(CC2C=C1)CN1CC(CN2C1=NC(=CC2=O)C2=CC=NC=C2)(C)C | C23H24ClN5O
reactant | cesium carbonate | 0.664 mmol, 0.216 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.142 mmol, 8.85 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | water | O | H2O
reactant | pyrrolidine | 20 ml | N1CCCC1 | C4H9N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.07 mmol, 6.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (+/−)7,7-Dimethyl-2-(pyridin-4-yl)-9-[(2-pyrrolidin-1-yl-6,7-dihydro-5H-[1]pyrindin-6-ylmethyl)]-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.184 g | CC1(CN(C=2N(C(C=C(N2)C2=CC=NC=C2)=O)C1)CC1CC=2C=CC(=NC2C1)N1CCCC1)C | C27H32N6O
